US04337247
(III) Production of Z-Tyr-(D)-Gln-Gly-MePhe-NHNHCSNH2
0.60 g of BOC-(D)-Gln-Gly-MePhe-NHNHCSNH2 is treated with trifluoroacetic acid and dissolved in 10 ml of DMF. The solution is neutralized with 0.19 ml of TEA, and 0.54 g of Z-Tyr ONB is added. The mixture is stirred for 15 hours. The DMF is distilled off and the residue is treated with ethyl acetate and filtered to obtain a powder, which is further reprecipitated from methanol-ether. Yield 0.54 g; m.p. 128°-133° C.; [α]D24 -72.4° (c=1.1, DMF); Rf1 0.13.

reactant | BOC-(D)-Gln-Gly-MePhe-NHNHCSNH2 | 0.60 g | N([C@H](CCC(N)=O)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=S)N)C)C(=O)OC(C)(C)C | C23H35N7O6S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Z-Tyr | 0.54 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO5
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Z-Tyr-(D)-Gln-Gly-MePhe-NHNHCSNH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCC(N)=O)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=S)N)C)C(=O)OCC1=CC=CC=C1 | C35H42N8O8S
